US05079244
5.8 g of 4-aminomorpholine, 2.7 g of sodium cyanide and 10.7 g of 3-benzylthio-2-methylpropionaldehyde are reacted analogously to 7a). 16.1 g of 4-benzylthio-2-morpholinoamino-3-methylbutyronitrile are obtained, which are employed in the following step without further purification.

reactant | 4-aminomorpholine | 5.8 g | NN1CCOCC1 | C4H10N2O
reactant | sodium cyanide | 2.7 g | [C-]#N.[Na+]
reactant | 3-benzylthio-2-methylpropionaldehyde | 10.7 g | C(C1=CC=CC=C1)SCC(C=O)C | C11H14OS
product | 4-benzylthio-2-morpholinoamino-3-methylbutyronitrile | 16.1 g | C(C1=CC=CC=C1)SCC(C(C#N)NN1CCOCC1)C | C16H23N3OS
